US05162310
12.75 g (0.0446 mol) of 3-[N-(5-phenylpentyl)-N-methylamino]-propionic acid hydrochloride are heated under reflux at 100° with 6.1 ml of 85% phosphoric acid and 30 ml of chlorobenzene, while stirring. 11.7 ml of phosphorus trichloride are then added dropwise at 100°, evolution of the gas taking place. The reaction mixture precipitates a thick mass in the course of 30 minutes. The mixture is heated at 100° for a further 3 hours and the supernatant chlorobenzene is then decanted off. The viscous mass which remains is heated at the boil under reflux with 45 ml of 9N hydrochloric acid for 3 hours, while stirring. It is filtered hot, with addition of charcoal, and the filtrate is concentrated under reduced pressure. Addition of acetone gives the crude 3-[N-(5-phenylpentyl)-N-methyl-amino]-1-hydroxypropane-1,1-diphosphonic acid, which is recrystallized from water: melting point 124°-127° (decomposition).

reactant | 3-[N-(5-phenylpentyl)-N-methylamino]-propionic acid hydrochloride | 0.0446 mol, 12.75 g | Cl.C1(=CC=CC=C1)CCCCCN(C)CCC(=O)O
reactant | phosphoric acid | 6.1 ml | P(O)(O)(O)=O | H3O4P
reactant | phosphorus trichloride | 11.7 ml | P(Cl)(Cl)Cl | Cl3P
solvent | chlorobenzene | 30 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3-[N-(5-phenylpentyl)-N-methyl-amino]-1-hydroxypropane-1,1-diphosphonic acid | C1(=CC=CC=C1)CCCCCN(C)CCC(P(O)(=O)O)(P(O)(=O)O)O | C15H27NO7P2
